US06833442B2
A complex according to the invention is synthesized as follows. At first, lanthanum isopropoxide is used as a metal isopropoxide and triphenyl arsinoxide is used as triphenyl oxide. Lanthanum isopropoxide, optically active binaphtol (BINOL derivative) and triphenyl arsinoxide are mixed at a ratio of 1:1:1 mol % in an argon atmosphere at room temperature for 30 minutes to 1 hour to obtain La-BINOL derivative-Ph3As═O complex.

reactant | lanthanum isopropoxide | CC([O-])C.[La+3].CC([O-])C.CC([O-])C
reactant | isopropoxide | CC([O-])C
reactant | triphenyl arsinoxide | C1(=CC=CC=C1)[As](C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15AsO
reactant | binaphtol | C=1(C(=CC=C2C=CC=CC12)O)C1=CC=CC2=CC=CC=C12 | C20H14O
product | Ph3As | [As](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
